US09278910B2
Prepared using General Procedure 2: To a stirring solution of 4-(heptyloxy)benzoic acid (1.0 g, 4.23 mmol) in DCM (10 mL) were added DMF (1 drop) and oxalyl chloride (0.47 mL, 5.5 mmol). The reaction mixture was stirred at room temperature for 1 h. Solvent was evaporated under high vacuum. DCM (10 mL) was added and the reaction mixture evaporated again to dryness. The residue was dissolved in DCM (10 mL) then added to a stirring mixture of 4-hydroxy benzaldehyde (0.56 g, 4.6 mmol) and TEA (0.706 mL, 5.07 mmol) in DCM (5 mL) at 0° C. The reaction mixture was allowed to stir at room temperature for 2 h. The reaction mixture was quenched with NaHCO3 (10 mL). The aqueous phase was extracted with DCM and the combined organic phases were dried over MgSO4 and concentrated to give 977 mg (62%) of 4-formylphenyl 4-(heptyloxy)benzoate INT-12 which was used in the next step without purification. LCMS-ESI (m/z) calculated for C21H24O4: 340; found 341 [M+H]+, tR=11.91 min (Method 2). 1H NMR (400 MHz, DMSO) δ 10.03 (s, 1H), 8.19-7.91 (m, 4H), 7.63-7.41 (m, 2H), 7.24-7.01 (m, 2H), 4.09 (t, J=6.5 Hz, 2H), 1.86-1.62 (m, 2H), 1.50-1.07 (m, 8H), 0.87 (t, J=6.9 Hz, 3H).

reactant | 4-(heptyloxy)benzoic acid | 4.23 mmol, 1.0 g | C(CCCCCC)OC1=CC=C(C(=O)O)C=C1 | C14H20O3
reactant | oxalyl chloride | 5.5 mmol, 0.47 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-hydroxy benzaldehyde | 4.6 mmol, 0.56 g | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-formylphenyl 4-(heptyloxy)benzoate | 977 mg, 62% | C(CCCCCC)OC1=CC=C(C(=O)OC2=CC=C(C=C2)C=O)C=C1 | C21H24O4
